US05519034
1-(2-Bromophenyl)cyclobutanecarbonyl chloride (9.4 g) was added to a solution of 4-benzyloxy-3-methoxy phenethylamine (8 g) and triethylamine (3.15 g) in ethyl acetate (50 ml) and tetrahydrofuran (50 ml). The mixture was stirred for two days, 2M aqueous potassium hydroxide solution (50 ml) added and the mixture stirred for 20 minutes. The aqueous layer was separated and extracted with ethyl acetate. The extract was washed with 1M hydrochloric acid and brine and yielded an oil which was dissolved in acetonitrile (180 ml). Phosphorus oxychloride (12 ml) was added and the mixture heated under reflux for 2.5 hours. The mixture was cooled and added to a mixture of concentrated aqueous ammonia solution (100 ml) and water (100 ml) and the mixture stirred for 10 minutes and extracted with ethyl acetate. The extract yielded an oil which was triturated with ether and the resulting solid recrystallised from cyclohexane to give 7-benzyloxy-1-[1-(2-bromophenyl)cyclobutyl]-6-methoxy-3,4,-dihydroisoquinoline (m.p. 115°-116° C.). A sample (3.1 g) of this material in methanol (16 ml) and acetic acid (35 ml) was treated with sodium cyanoborohydride (1 g). The mixture was stirred for 16 hours, diluted with water, basified with 50% aqueous sodium hydroxide solution and extracted with ether. The extract gave a residue which was dissolved in acetonitrile (115 ml) and then 37-40% aqueous formaldehyde solution (3.2 ml) and sodium cyanoborohydride (0.83 g) were added. The mixture was stirred for 15 minutes and then neutralised with acetic acid and stirred for 45 minutes. After concentration, 2M aqueous sodium hydroxide solution was added and the mixture extracted with ethyl acetate. The extract gave 7-benzyloxy-1-[1-(2-bromophenyl)cyclobutyl]-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline, a sample of which (3 g) was mixed with ethanol (70 ml) and concentrated hydrochloric acid (70 ml) and the mixture heated under reflux for 45 minutes. The solvent was removed by evaporation and the residue dried by azeotropic distillation with propan-2-ol. The dried residue was suspended in propan-2-ol (20 ml) and the mixture filtered. The filtrate was decolourised with charcoal in methanol. The free base was liberated by basification and dissolved in ether. Removal of the ether gave 1-[1-(2-bromophenyl)cyclobutyl]-7-hydroxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (m.p. 48°-51° C.) which was dried in vacuo (ca 0.1 mmHg) for four hours.

reactant | 1-(2-Bromophenyl)cyclobutanecarbonyl chloride | 9.4 g | BrC1=C(C=CC=C1)C1(CCC1)C(=O)Cl | C11H10BrClO
reactant | 4-benzyloxy-3-methoxy phenethylamine | 8 g | C(C1=CC=CC=C1)OC1=C(C=C(CCN)C=C1)OC | C16H19NO2
reactant | potassium hydroxide | 2M, 50 ml | [OH-].[K+]
reactant | Phosphorus oxychloride | 12 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | 100 ml | N | H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
solvent | triethylamine | 3.15 g | C(C)N(CC)CC | C6H15N
product | 7-benzyloxy-1-[1-(2-bromophenyl)cyclobutyl]-6-methoxy-3,4,-dihydroisoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCN=C(C2=C1)C1(CCC1)C1=C(C=CC=C1)Br)OC | C27H26BrNO2
